US04507484
Preparation of 2-(2,4-dichlorophenyl)-3-(2-[N,N-dimethylcarbamoyl]ethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol hydrochloride hemihydrate
2-(2,4-Dichlorophenyl)-3-(2-carboxyethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol (0.38 g) was suspended in dioxan whilst N-hydroxysuccinimide (0.172 g, 1.5 equiv.) and dicyclohexylcarbodiimide (0.309 g, 1.5 equiv.) were added. The reaction mixture was stirred overnight (19 hours) at room temperature. Anhydrous dimethylamine (0.09 g, 2.0 equiv.) was added, and stirring continued for 30 minutes.

reactant | 2-(2,4-Dichlorophenyl)-3-(2-carboxyethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol | 0.38 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CSCCC(=O)O)O | C14H15Cl2N3O3S
reactant | N-hydroxysuccinimide | 0.172 g, 1.5 equiv. | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 0.309 g, 1.5 equiv. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylamine | 0.09 g, 2.0 equiv. | CNC | C2H7N
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(2,4-dichlorophenyl)-3-(2-[N,N-dimethylcarbamoyl]ethylthio)-1-(1H-1,2,4-triazol-1-yl)-propan-2-ol hydrochloride hemihydrate | O.Cl.ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CSCCC(N(C)C)=O)O.ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)(CSCCC(N(C)C)=O)O.Cl | InChI=1S/2C16H20Cl2N4O2S.2ClH.H2O/c2*1-21(2)15(23)5-6-25-9-16(24,8-22-11-19-10-20-22)13-4-3-12(17)7-14(13)18;;;/h2*3-4,7,10-11,24H,5-6,8-9H2,1-2H3;2*1H;1H2
